US04013649
A mixture of 2,2-dibromo-3,3-dimethylbutyric acid, 55 parts, and thiocarbohydrazide, 22 parts, in 500 parts of (1:1) methanol and water was heated to reflux for five hours. Upon cooling the reaction mixture to 0° C., a solid formed and was collected. The solid, 4-amino-6-t-butyl-3-mercapto-1,2,4-triazin-5-one, was obtained in 78% of theory (29 parts).

reactant | 2,2-dibromo-3,3-dimethylbutyric acid | BrC(C(=O)O)(C(C)(C)C)Br | C6H10Br2O2
reactant | thiocarbohydrazide | NNC(=S)NN | CH6N4S
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 4-amino-6-t-butyl-3-mercapto-1,2,4-triazin-5-one | NN1C(=NN=C(C1=O)C(C)(C)C)S | C7H12N4OS
